* C:\Users\Umart\OneDrive\Documents\GitHub\ECE303LAB\Lab 5\prelab.asc
XU1 Vz Vout Vcc Vee N004 LM741/NS
V1 Vcc 0 12
V2 Vee 0 -12
Dz 0 Vz D1N5231
R1 Vcc Vz 1k
Q9 N001 N004 Vout 0 2N4401
R2 Vcc N001 100
C1 Vout 0 100µ
RL Vout 0 {Rload}
C2 N002 N001 10µ
R3 N003 N002 50
Vnoise N003 0 0
.model D D
.lib C:\Users\Umart\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Umart\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib nat_semi-model_lib.lib
.model D1N5231  D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+               Vj=.75 Fc=.5 Isr=1.8n Nr=2 Bv=5.1 Ibv=27.721m Nbv=1.1779
+               Ibvl=1.1646m Nbvl=21.894 Tbv1=176.47u)
*               Motorola        pid=1N5231      case=DO-35
*               89-9-18-gjg
*               Vz = 5.1 @ 20mA, Zz = 175 @ 1mA, Zz = 8.2 @ 5mA, Zz = 2.2 @ 20mA
* .step dec param Rload 10 100k 20
* .op
.tran 2m
.param Rload=20
.backanno
.end
